US05571813
Preparation of N-((3-Bromo-2-(2-cyanophenyl)benzofuran-5-yl)methyl)-N-methyl amine
3.1 g (7.9 mmol) 3-Bromo-5-(bromomethyl)-2-(2-cyanophenyl)benzofuran (prepared according to EP 434 249) were dissolved in 50 ml THF, and 25 ml of a 40% aqueous solution of methylamine was added via a dropping funnel. The mixture was stirred at room temperature over night and warmed for 2 h at 40° C. The solvent was removed in vacuo, the residue stirred with water, filtrated by suction, and washed with water. The title compound was purified by column chromatography (silica gel, dichloromethane/ethanol 99:1 to 90:10) and obtained as a colorless powder after evaporation to dryness, m.p. 114° C.

reactant | 3-Bromo-5-(bromomethyl)-2-(2-cyanophenyl)benzofuran | 7.9 mmol, 3.1 g | BrC1=C(OC2=C1C=C(C=C2)CBr)C2=C(C=CC=C2)C#N | C16H9Br2NO
reactant | methylamine | CN | CH5N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-((3-Bromo-2-(2-cyanophenyl)benzofuran-5-yl)methyl)-N-methyl amine | BrC1=C(OC2=C1C=C(C=C2)CNC)C2=C(C=CC=C2)C#N | C17H13BrN2O
